US05849911
34q) 1-[4-(2-tert-Butyl-2H-tetrazol-5-yl)-phenyl]-4(S)-hydroxy-5(S)-amino-2-N-[N-methoxycarbonyl-(L)-tert-leucyl]amino-6-phenyl-2-azahexane hydrochloride
Under a nitrogen atmosphere, 200 mg (0.293 mmol) of 1-[4-(2-tert-butyl-2H-tetrazol-5-yl)-phenyl]-4(S)-hydroxy-5(S)-N-(tert-butyloxycarbonyl)amino-2-N-[N-methoxycarbonyl-(L)-tert-leucyl]amino-6-phenyl-2-azahexane are dissolved in 2.3 ml of THF; 1.6 ml of aqueous 2N HCl are added and the mixture is stirred at 50° C. for 8 hours. The reaction solution is concentrated by evaporation; the residue is taken up several times in ethanol and concentrated by evaporation again (→title compound): TLC: Rt =0.08 (CH2Cl2 /MeOH 30:1); HPLC20-100(12') : tRet =9.9; 1H-NMR (CD3OD) d 8.03 and 7.50 (2d, J=8, each 2H), 7.32 (m, 5H), 4.18 and 3.91 (2d, J=4, 2H), 3.80 (m, 1H), 3.68 (s, 1H), 3.58 (s, 3H), 3.57 (m, 1H), 3.3-2.9 (m, 4H), 1.81 and 0.75 (2s, each 9H).

reactant | 1-[4-(2-tert-butyl-2H-tetrazol-5-yl)-phenyl]-4(S)-hydroxy-5(S)-N-(tert-butyloxycarbonyl)amino-2-N-[N-methoxycarbonyl-(L)-tert-leucyl]amino-6-phenyl-2-azahexane | 0.293 mmol, 200 mg | C(C)(C)(C)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)NC([C@@H](NC(=O)OC)C(C)(C)C)=O | C35H52N8O6
reactant | HCl | 2N | Cl | ClH
solvent | THF | 2.3 ml | C1CCOC1 | C4H8O
product | 1-[4-(2-tert-Butyl-2H-tetrazol-5-yl)-phenyl]-4(S)-hydroxy-5(S)-amino-2-N-[N-methoxycarbonyl-(L)-tert-leucyl]amino-6-phenyl-2-azahexane hydrochloride | Cl.C(C)(C)(C)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)N)O)NC([C@@H](NC(=O)OC)C(C)(C)C)=O | InChI=1S/C30H44N8O4.ClH/c1-29(2,3)25(32-28(41)42-7)27(40)35-37(19-24(39)23(31)17-20-11-9-8-10-12-20)18-21-13-15-22(16-14-21)26-33-36-38(34-26)30(4,5)6;/h8-16,23-25,39H,17-19,31H2,1-7H3,(H,32,41)(H,35,40);1H/t23-,24-,25+;/m0./s1
